US06610733B2
A solution of potassium hydroxide (4.35 g, 77.65 mmol) in water (50 ml) was added to a solution of 1-acetoxy-8-[(3S,4S)-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman-4-yl]octane (7.31 g, 15.53 ml) in ethanol (100 ml), and the resulting mixture was heated with stirring under reflux for 12 hours. After the reaction mixture was concentrated under reduced pressure, water was added to the residue, which was then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then evaporated to remove the solvent. The residue was dissolved in dichloromethane (100 ml), and triethylamine (4.33 ml, 31.06 mmol) and methanesulfonyl chloride (1.8 ml, 23.29 mmol) were added to the solution followed by stirring for 1 hour and 30 minutes at 5° C. After the reaction was completed, water was added to the reaction mixture, which was then extracted with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate and then evaporated to remove the solvent. Sodium iodide (11.6 g, 77.65 mmol) was added to a solution of the residue in acetone (200 ml), followed by heating under reflux for 3 hours. After the reaction mixture was filtered and concentrated under reduced pressure, water was added to the residue, which was then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then evaporated to remove the solvent. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/10) to give 1-iodo-8-[(3S,4S)-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman-4-yl]octane (4.0 g, 7.42 mmol). Sodium hydride (0.62 g, 15.58 mmol) was added to a solution of separately prepared dimethyl 2-(4,4,5,5,5-pentafluoropentyl)malonate (4.33 g, 14.85 mmol) in tetrahydrofuran (40 ml) followed by stirring for 30 minutes at 0° C. A solution of 1-iodo-8-[(3S,4S)-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman-4-yl]octane in tetrahydrofuran (40 ml) was added to the resulting mixture followed by stirring for 24 hours at room temperature. Water was added to the reaction mixture, which was then extracted with ethyl acetate. After the organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off and the resulting residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/30) to give dimethyl 2-{8-[(3S,4S)-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman-4-yl]octyl}-2-(4,4,5,5,5-pentafluoropentyl)malonate (3.7 g, Yield 71%) as a foamy oil.

reactant | Sodium hydride | 15.58 mmol, 0.62 g | [H-].[Na+]
reactant | dimethyl 2-(4,4,5,5,5-pentafluoropentyl)malonate | 14.85 mmol, 4.33 g | FC(CCCC(C(=O)OC)C(=O)OC)(C(F)(F)F)F | C10H13F5O4
reactant | 1-iodo-8-[(3S,4S)-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman-4-yl]octane | ICCCCCCCC[C@H]1[C@@](CSC2=CC(=CC=C12)OC)(C)C1=CC=C(C=C1)OC | C26H35IO2S
reactant | Water | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | dimethyl 2-{8-[(3S,4S)-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman-4-yl]octyl}-2-(4,4,5,5,5-pentafluoropentyl)malonate | 3.7 g, Yield 71% | COC1=CC=C2[C@H]([C@@](CSC2=C1)(C)C1=CC=C(C=C1)OC)CCCCCCCCC(C(=O)OC)(C(=O)OC)CCCC(C(F)(F)F)(F)F | C36H47F5O6S
